US09085555B2
A. (2R,5S)-1-Benzyl-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-2-carboxylic acid ethyl ester
To a suspension of (2R,5S)-1-benzyl-pyrrolidine-2,5-dicarboxylic acid monoethyl ester (2 g, 7.21 mmol) in DMF (25 mL) was added 3-(trifluoromethoxy)aniline (1.53 mL, 8.65 mmol), HBTU (4.19 g, 10.8 mmol) and diisopropylethylamine (3.78 mL, 21.6 mmol). The reaction mixture was stirred at RT overnight. EtOAc and 1N HCl were added, the layers were separated and the aqueous one was back-extracted with EtOAc (×3). The combined organic extracts were washed with an aqueous solution containing 5% of NaHCO3, dried over Na2SO4, filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane/EtOAc gradient 100:0 to 80:20) to give the title compound. MS (LC/MS): 437.2 [M+H]+; tR (HPLC conditions b) 5.50 min.

reactant | (2R,5S)-1-benzyl-pyrrolidine-2,5-dicarboxylic acid monoethyl ester | 7.21 mmol, 2 g | C(C)OC(=O)[C@@H]1N([C@@H](CC1)C(=O)O)CC1=CC=CC=C1 | C15H19NO4
reactant | 3-(trifluoromethoxy)aniline | 8.65 mmol, 1.53 mL | FC(OC=1C=C(N)C=CC1)(F)F | C7H6F3NO
reactant | HBTU | 10.8 mmol, 4.19 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 21.6 mmol, 3.78 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2R,5S)-1-Benzyl-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-2-carboxylic acid ethyl ester | C(C)OC(=O)[C@@H]1N([C@@H](CC1)C(NC1=CC(=CC=C1)OC(F)(F)F)=O)CC1=CC=CC=C1 | C22H23F3N2O4
